US07119205B2
2-chloro-4-hydroxy-3-{4-[(1-hydroxycyclopentyl)methoxy]phenyl}-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile
To an ambient slurry of 2-chloro-4-hydroxy-3-{4-[(1-hydroxycyclopent-3-en-1-yl)methoxy]phenyl}-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile (60 mg, 0.15 mmol) and potassium diazodicarboxylate (88 mg, 0.45 mmol) in a mixture of DMSO (1.0 mL) and MeOH (1.3 mL) was slowly added a solution of AcOH (0.051 mL, 0.90 mmol) in MeOH (0.30 mL). After 10 minutes, the reaction was quenched by the addition of 1N HCl (10 mL) and EtOAc (5 mL). The layers were separated, and the aqueous was extracted with additional EtOAc (2×5 mL). The combined organic layers were dried with anhydrous Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by RPLC to give the titled compound as a white solid. MS (ESI) m/e 415 (M−H)−; 1H NMR (300 MHz, DMSO-d6) δ ppm 1.67 (m, 8H), 3.88 (s, 2H), 6.94 (d, J=8.82 Hz, 2H), 7.22 (d, J=8.82 Hz, 2H).

reactant | 2-chloro-4-hydroxy-3-{4-[(1-hydroxycyclopent-3-en-1-yl)methoxy]phenyl}-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | 0.15 mmol, 60 mg | ClC1=C(C2=C(NC(C(=C2O)C#N)=O)S1)C1=CC=C(C=C1)OCC1(CC=CC1)O | C20H15ClN2O4S
reactant | potassium diazodicarboxylate | 0.45 mmol, 88 mg | [N+](=[N-])(C(=O)[O-])C(=O)[O-].[K+].[K+]
reactant | AcOH | 0.90 mmol, 0.051 mL | CC(=O)O | C2H4O2
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
solvent | MeOH | 1.3 mL | CO | CH4O
solvent | MeOH | 0.30 mL | CO | CH4O
product | 2-chloro-4-hydroxy-3-{4-[(1-hydroxycyclopentyl)methoxy]phenyl}-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | ClC1=C(C2=C(NC(C(=C2O)C#N)=O)S1)C1=CC=C(C=C1)OCC1(CCCC1)O | C20H17ClN2O4S
